US04007204
Into a one-litre flask equipped with a mechanical stirrer and a dropping-funnel were introduced 39 g (0.97 mol) of sodium hydroxide with 270 ml of water. The solution was cooled to 0° C by means of an ice-bath and 20 ml (0.333 mol) of bromine were then added through the dropping-funnel followed by 190 ml of dioxan, care being taken to maintain the temperature at 0° C. Finally, still at the same temperature, a solution of 22.6 g (0.111 mol) of 2-ethyl-3-acetyl-benzo[b]thiophene in 25 ml of dioxan were introduced drop-by-drop. The mixture was then allowed to return to room temperature and stirring was maintained for 2 hours. A solution of sodium bisulphite was then added and the reaction medium was acidified and extracted with ether. The organic phase was washed with water, dried and evaporated to dryness to give 20.2 g of 2-ethyl-3-carboxy-benzo[b]thiophene. Yield 92%; M.P. 136° C.

reactant | sodium hydroxide | 0.97 mol, 39 g | [OH-].[Na+]
reactant | bromine | 0.333 mol, 20 ml | BrBr | Br2
reactant | 2-ethyl-3-acetyl-benzo[b]thiophene | 0.111 mol, 22.6 g | C(C)C1=C(C2=C(S1)C=CC=C2)C(C)=O | C12H12OS
reactant | sodium bisulphite | S([O-])(O)=O.[Na+]
solvent | dioxan | 25 ml | O1CCOCC1 | C4H8O2
solvent | dioxan | 190 ml | O1CCOCC1 | C4H8O2
solvent | water | 270 ml | O | H2O
product | 2-ethyl-3-carboxy-benzo[b]thiophene | 20.2 g, Yield 92% | C(C)C1=C(C2=C(S1)C=CC=C2)C(=O)O | C11H10O2S
